US07683067B2
N-(2-Methoxybenzyl)-2-oxoindoline-5-carboxamide
To a solution of 2-oxoindoline-5-carboxylic acid (0.200 g, 1.12 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.477 g, 2.47 mmol), diisopropylethylamine (0.586 mL, 3.37 mmol) and catalytic amount of N,N-dimethylaminopyridine in N,N-dimethylformamide/acteonitrile (1:1, 4 mL) was added 2-methoxybenzylamine (0.295 mL, 2.26 mmol) and the reaction mixture stirred at room temperature for 1 h. The solvent was evaporated and the crude material was purified on a short silica gel column using dichloromethane containing 5% methanol as the eluent. This was followed by triturating from ethyl acetate to give 0.10 g (33% yield) of the yellow title compound: 1H NMR (DMSO-d6, 400 MHz) δ 10.60 (br s, 1H), 8.65 (t, J=6 Hz, 1H), 7.79-7.77 (m, 2H), 7.21 (t, J=8 Hz, 1H), 7.15 (d, J=8 Hz, 1H), 6.98 (d, J=8 Hz, 1H), 6.90-6.84 (m, 2H), 4.42 (d, J=6 Hz, 2H), 3.81 (s, 3H), 3.53 (s, 2H); MS (ES) m/z 297 (M++1), m/z 295 (M−−1).

reactant | 2-oxoindoline-5-carboxylic acid | 1.12 mmol, 0.200 g | O=C1NC2=CC=C(C=C2C1)C(=O)O | C9H7NO3
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 2.47 mmol, 0.477 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 3.37 mmol, 0.586 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-methoxybenzylamine | 2.26 mmol, 0.295 mL | COC1=C(CN)C=CC=C1 | C8H11NO
solvent | N,N-dimethylformamide acteonitrile | 4 mL | CN(C=O)C.C(C)#N
product | N-(2-Methoxybenzyl)-2-oxoindoline-5-carboxamide | 0.10 g, 33% yield | COC1=C(CNC(=O)C=2C=C3CC(NC3=CC2)=O)C=CC=C1 | C17H16N2O3
